US07405221B2
2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with 4-fluorobenzyl alcohol according to the procedure described in Example 59 to afford 2-(4-fluorobenzyloxy)-4-(4-chloro-phenyl)-5-(2,4-dichlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=459 (M+30 1); Rt=4.80 min; 1H-NMR 500 MHz (CDCl3): δ 5.58 (s, 2H), 7.05-7.15 (m, 3H), 7.23-7.30 (m, 3H), 7.39 (d, J=9 Hz, 2H), 7.41-7.49 (m, 1H), 7.50-7.58 (m, 2H), 8.48 (s, 1H).

reactant | 2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2S
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 2-(4-fluorobenzyloxy)-4-(4-chloro-phenyl)-5-(2,4-dichlorophenyl)pyrimidine | FC1=CC=C(COC2=NC=C(C(=N2)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C23H14Cl3FN2O
